US05994629
3. 2-Benzylthio-N6 -(2-isopentenyl)adenine
A mixture of 2-benzylthio-6-chloropurine (1.2 g) and isopentenylamine hydrochloride (1.04 g) in 1-butanol (25 ml) containing triethylamine (2.2 ml) is heated in a sealed tube at 110° C. for 2 hours. The butanol is removed under vacuum and the mixture shaken with ice-water (100 ml). The product is filtered recrystallized from ethanol with charcoal decolorization and dried under vacuum with phosphorous pentoxide. Yield 0.64 g. Yield 1.3 g of 2-benzyl-thio-N6 -(2-iso-pentyenyl)adenine as a colorless solid. The crude product is used directly in the next step.

reactant | 2-benzylthio-6-chloropurine | 1.2 g | C(C1=CC=CC=C1)SC1=NC(=C2NC=NC2=N1)Cl | C12H9ClN4S
reactant | isopentenylamine hydrochloride | 1.04 g | Cl.C(CC(=C)C)N
reactant | triethylamine | 2.2 ml | C(C)N(CC)CC | C6H15N
solvent | 1-butanol | 25 ml | C(CCC)O | C4H10O
product | 2-Benzylthio-N6 -(2-isopentenyl)adenine | C(C1=CC=CC=C1)SC1=NC(=C2NC=NC2=N1)NCC=C(C)C | C17H19N5S
